US09260397B2
3-heptyl-1-(2-methoxyphenyl)imidazolium bromide
According to the general synthesis procedure, 5.8 mmol (1.00 g) 1-(2-methoxyphenyl)imidazole and 7.0 mmol (1.25 g, 1.1 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 17 h to 90° C.

reactant | 1-(2-methoxyphenyl)imidazole | 5.8 mmol, 1.00 g | COC1=C(C=CC=C1)N1C=NC=C1 | C10H10N2O
reactant | 1-bromoheptane | 7.0 mmol, 1.1 ml, 1.25 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-heptyl-1-(2-methoxyphenyl)imidazolium bromide | [Br-].C(CCCCCC)N1C=[N+](C=C1)C1=C(C=CC=C1)OC | InChI=1S/C17H25N2O.BrH/c1-3-4-5-6-9-12-18-13-14-19(15-18)16-10-7-8-11-17(16)20-2;/h7-8,10-11,13-15H,3-6,9,12H2,1-2H3;1H/q+1;/p-1
